US06011028
Example 227 A) 4-Methoxy-β-nitrostyrene (25.0 g, 0.15 mole) was reacted with benzaldehyde (19.1 g, 0.18 mole) and 1,2-diaminobenzene (19.8 g, 0.18 mole) according to the procedure of Chikashita et. al. (Synth. Commun. 1985, 15 (6), 527) to yield methoxy-4-(2-nitroethyl) benzene (25.0 g, 93%) as a yellow oil.

reactant | 4-Methoxy-β-nitrostyrene | 0.15 mole, 25.0 g | COC1=CC=C(C=C[N+](=O)[O-])C=C1 | C9H9NO3
reactant | benzaldehyde | 0.18 mole, 19.1 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | 1,2-diaminobenzene | 0.18 mole, 19.8 g | NC1=C(C=CC=C1)N | C6H8N2
product | methoxy-4-(2-nitroethyl) benzene | 25.0 g, 93% | COC1=CC=C(C=C1)CC[N+](=O)[O-] | C9H11NO3
